US03958003
45 g of Raney nickel are added to 254.2 g of 3-cyano-3-phenylglutaric acid diethyl ester in 1.5 liters of absolute methanol, and hydrogenation is effected in a 5 liter autoclave for 30 hours at 80° and a hydrogen pressure of 81 atmospheres. After cooling, the catalyst is filtered off, the filtrate is concentrated on a rotary evaporator, the resulting light yellow oil is taken up in 1.5 liters of chloroform and is successively washed with 25 cc of 2 N hydrochloric acid, 100 cc of saturated sodium bicarbonate solution and 100 cc of water. The 5-oxo-3-phenyl-3-pyrrolidine acetic acid ethyl ester, obtained after concentrating the chloroform phase, crystallizes upon triturating with ether. M.P. 49°-51° (from ethyl acetate/petroleum ether).

reactant | 3-cyano-3-phenylglutaric acid diethyl ester | 254.2 g | C(C)OC(CC(CC(=O)OCC)(C1=CC=CC=C1)C#N)=O | C16H19NO4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 45 g | [Ni] | Ni
solvent | methanol | 1.5 liters | CO | CH4O
product | 5-oxo-3-phenyl-3-pyrrolidine acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C1=CC=CC=C1)=O | C14H17NO3
